US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (300 mg, 1.13 mmol) was treated with cyclobutylamine following general procedure B to afford 4-cyclobutylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (240 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid using general procedure D and then transformed into the corresponding ethylamide (170 mg) following general procedure E.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 1.13 mmol, 300 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | cyclobutylamine | C1(CCC1)N | C4H9N
product | 4-cyclobutylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 240 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCC1)OC | C17H20N2O3
